US04906669
2-Methyl-2-(4,8,12-trimethyltridecyl)-6-chromanol (Compound 2)
To 1.10 g (10.0 mmole) of 1,4-hydroquinone and 409 mg (3.00 mmole) of zinc chloride in 5 ml of butyl acetate there was dropwise added, under nitrogen atmosphere, 1.48 g (5.00 mmole) of 3,7,11,15-tetramethyl-2-hexadecen-1-ol in 5 ml of butyl acetate over one hour while refluxing under heating. After the completion of the dropwise addition, the reaction solution was refluxed under heating for additional 30 minutes, followed by allowing the reaction solution to cool, pouring it into water (100 ml) and extracting it twice with ether (100 ml×1; 50 ml×1). The combined extract was successively washed with 150 ml of 5% (w/v) aqueous sodium hydroxide solution (one time), 150 ml of water (one time) and 150 ml of saturated aqueous solution of sodium chloride (one time), followed by drying over anhydrous magnesium sulfate, distilling off the solvent and subjecting the residue to silica gel column chromatography. Thus, 770 mg (2.0 mmole) of the title compound (2) was recovered from the eluted fractions (eluent:hexane-ethyl acetate (10:1). Yield:40%.

reactant | 3,7,11,15-tetramethyl-2-hexadecen-1-ol | 5.00 mmole, 1.48 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | water | 100 ml | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | butyl acetate | 5 ml | C(C)(=O)OCCCC | C6H12O2
solvent | butyl acetate | 5 ml | C(C)(=O)OCCCC | C6H12O2
catalyst | zinc chloride | 3.00 mmole, 409 mg | [Cl-].[Zn+2].[Cl-]
product | 2-Methyl-2-(4,8,12-trimethyltridecyl)-6-chromanol | Yield:40% | CC1(OC2=CC=C(C=C2CC1)O)CCCC(CCCC(CCCC(C)C)C)C | C26H44O2
